US05071999
b) Ethyl N-(2-buten-1-yl)-N-(2,2-dimethoxyethyl) -carbamate
Alternatively 90 g (0.5 mol) of ethyl N-(2,2-dimethoxyethyl) -carbamate are dissolved in 500 ml of toluene, 100 g of powdered potassium hydroxide and 1.5 g of triethylbenzylammonium chloride are added and 80 g (0.6 mol) of crotyl bromide (isomer mixture) are added dropwise. The mixture is stirred overnight at room temperature, the salts are dissolved in water, and the aqueous phase is separated off and extracted once using 100 ml of toluene. The extract is dried over potassium carbonate and concentrated, and the residue is distilled.

reactant | ethyl N-(2,2-dimethoxyethyl) -carbamate | 0.5 mol, 90 g | COC(CNC(OCC)=O)OC | C7H15NO4
reactant | potassium hydroxide | 100 g | [OH-].[K+]
reactant | crotyl bromide | 0.6 mol, 80 g | C(C=CC)Br | C4H7Br
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
catalyst | triethylbenzylammonium chloride | 1.5 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | O | H2O
product | Ethyl N-(2-buten-1-yl)-N-(2,2-dimethoxyethyl) -carbamate | C(C=CC)N(C(OCC)=O)CC(OC)OC | C11H21NO4
